US07037909B2
To concentrated H2SO4 (3.5 mL) at 60° C. was added N-[2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)-phenyl]-2-hydroxyimino-acetamide (1.4 g, 4.36 mmol) in portions with stirring. After the addition was finished, the mixture was heated to 75° C. and kept at this temperature for 15 min. A dark-purple solution was formed and poured upon cracked ice. Then solid NaHCO3 is added and pH was adjusted to 8.0. The mixture was extracted with CH2Cl2, dried (Na2SO4), and crystallized from CH2Cl2-hexane to give 4,7-Dimethyl-5-(2-morpholin-4-yl-ethoxy)-1H-indole-2,3-dione as brown solid 1.15 g, 87%).

reactant | H2SO4 | 3.5 mL | OS(=O)(=O)O | H2O4S
reactant | N-[2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)-phenyl]-2-hydroxyimino-acetamide | 4.36 mmol, 1.4 g | CC1=C(C=C(C(=C1)OCCN1CCOCC1)C)NC(C=NO)=O | C16H23N3O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4,7-Dimethyl-5-(2-morpholin-4-yl-ethoxy)-1H-indole-2,3-dione | 1.15 g, 87% | CC1=C2C(C(NC2=C(C=C1OCCN1CCOCC1)C)=O)=O | C16H20N2O4
